US06596461B1
3) Preparation of 1-(2-hydroxyethyl)-3,3,5,5-tetramethylpiperazin-2-one
244.2 g (2.05 mol) of chloroform are added to 180 g (1.36 mol) of 2-(2-amino-2-methylpropylamino)ethanol in 1204 ml of acetone. The mixture is cooled to 5° C. under stirring and a solution of 327 g (8.18 mol) of sodium hydroxide in 327 ml of water is slowly added, the temperature of the mixture being maintained at 0°-5° C. during the addition. The mixture is then stirred at this temperature for further 2 hours and at room temperature for 15 hours. Subsequently, the pH of the aqueous solution is corrected to 11 and the mixture is stirred for further 4 hours. Then, the mixture is filtered and the residue is washed with acetone. The filtrate and the acetone of washing are collected and evaporated under vacuum (70° C./24 mbar). The residue is distilled giving a white oil with a boiling point of 115° C. at 2.66 mbar. After cooling a solid product with a melting point of 91°-93° C. is obtained.

reactant | chloroform | 2.05 mol, 244.2 g | C(Cl)(Cl)Cl | CHCl3
reactant | 2-(2-amino-2-methylpropylamino)ethanol | 1.36 mol, 180 g | NC(CNCCO)(C)C | C6H16N2O
reactant | sodium hydroxide | 8.18 mol, 327 g | [OH-].[Na+]
solvent | acetone | 1204 ml | CC(=O)C | C3H6O
solvent | water | 327 ml | O | H2O
product | 1-(2-hydroxyethyl)-3,3,5,5-tetramethylpiperazin-2-one | OCCN1C(C(NC(C1)(C)C)(C)C)=O | C10H20N2O2
